US06235731B1
2) Synthesis of N-[4-(4-phenylpiperidin-1-yl)butan-1-yl]-5-thia-1,8b-diazaacenaphthylene-4-carboxamide Dihydrochloride
To a solution of 1.76 g (4.07 mM) of N-[4-(4-phenylpiperidin-1-yl)butan-1-yl]-5-thia-1,8b-diazaacenaphthylene-4-carboxamide in ethanol (15 ml) was added 6 ml (24 mM) of 4N-HCl/methanol at room temperature and the mixture was stirred at the same temperature for several minutes. The solvent was then distilled off under reduced pressure and diethyl ether was added to the residue. The resulting crystals were collected by filtration and rinsed with diethyl ether to provide the title compound as orange-colored crystals.

reactant | N-[4-(4-phenylpiperidin-1-yl)butan-1-yl]-5-thia-1,8b-diazaacenaphthylene-4-carboxamide | 4.07 mM, 1.76 g | C1(=CC=CC=C1)C1CCN(CC1)CCCCNC(=O)C1=CC2=CN=C3C=CC=C(S1)N32 | C25H28N4OS
reactant | HCl methanol | Cl.CO
solvent | ethanol | 15 ml | C(C)O | C2H6O
product | N-[4-(4-phenylpiperidin-1-yl)butan-1-yl]-5-thia-1,8b-diazaacenaphthylene-4-carboxamide Dihydrochloride | Cl.Cl.C1(=CC=CC=C1)C1CCN(CC1)CCCCNC(=O)C1=CC2=CN=C3C=CC=C(S1)N32 | InChI=1S/C25H28N4OS.2ClH/c30-25(22-17-21-18-27-23-9-6-10-24(31-22)29(21)23)26-13-4-5-14-28-15-11-20(12-16-28)19-7-2-1-3-8-19;;/h1-3,6-10,17-18,20H,4-5,11-16H2,(H,26,30);2*1H
